US08470866B2
A solution 2-(3-nitro-pyrazol-1-yl)-ethanol (3.46 g, 22.02 mmol) in ethanol (40 mL) was placed in a Parr shaker bottle and treated with 10% palladium on carbon (350 mg). The bottle was then put on the Parr shaker and charged with hydrogen to 50 psi and let shake for 1 h. After this time, the reaction mixture was filtered through celite and the celite washed with ethanol. The filtrate was then concentrated in vacuo and azeotroped with acetonitrile and then chloroform to afford 2-(3-amino-pyrazol-1-yl)-ethanol (3.02 g, >quant.) as a light yellow viscous oil: 1H NMR (300 MHz, DMSO-d6 δ ppm 7.26 (d, J=1.83 Hz, 1H), 5.34 (d, J=2.20 Hz, 1H), 4.76 (t, J=5.31 Hz, 1H), 4.50 (s, 2H), 3.78-3.88 (m, 2H), 3.62 (q, J=5.74 Hz, 2H).

reactant | 2-(3-nitro-pyrazol-1-yl)-ethanol | 22.02 mmol, 3.46 g | [N+](=O)([O-])C1=NN(C=C1)CCO | C5H7N3O3
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 40 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 350 mg | [Pd] | Pd
product | 2-(3-amino-pyrazol-1-yl)-ethanol | 3.02 g | NC1=NN(C=C1)CCO | C5H9N3O
